US08278441B2
tert-Butyl (7aS)-7a-(4-fluoro-3-hydroxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate
To a mixture of 5-((4aR,7aS)-2-amino-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenol (0.524 g, 1.97 mmol) in 1,4-dioxane (20 mL) and saturated aqueous NaHCO3 (20 mL) is added a solution of di-tert-butyldicarbonate (0.451 g, 2.07 mmol) in 1,4-dioxane (2 mL). The mixture is stirred at room temperature for 16 h. The mixture is diluted water and extracted three times with EtOAc. The organic layer is dried over Na2SO4 and the crude product is purified by silica gel chromatography eluting with a linear gradient of 5% to 100% EtOAc in hexanes to give the title compound (0.436 g, 61%). ES/MS m/e: 367 (M+1).

reactant | 5-((4aR,7aS)-2-amino-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-7a-yl)-2-fluorophenol | 1.97 mmol, 0.524 g | NC=1SC[C@H]2[C@@](N1)(CCC2)C=2C=CC(=C(C2)O)F | C13H15FN2OS
reactant | di-tert-butyldicarbonate | 2.07 mmol, 0.451 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (7aS)-7a-(4-fluoro-3-hydroxyphenyl)-4,4a,5,6,7,7a-hexahydrocyclopenta[d][1,3]thiazin-2-ylcarbamate | 0.436 g, 61% | FC1=C(C=C(C=C1)[C@@]12N=C(SCC1CCC2)NC(OC(C)(C)C)=O)O | C18H23FN2O3S
